* NGSPICE file created from comparator_pex.ext - technology: ihp-sg13g2

.subckt comparator_pex Vbias in_p in_n VGND VPWR out
X0 diff R1 VPWR VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X1 VPWR R1 R1 VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X2 VPWR diff a_3050_980# VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X3 VPWR R1 diff VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=1.1p ps=5.1u w=2u l=0.3u
X4 R2 in_p R1 VGND.t0 sg13_lv_nmos ad=1p pd=4.5u as=2.2p ps=9.1u w=4u l=0.3u
X5 R1 R1 VPWR VPWR sg13_lv_pmos ad=1.1p pd=5.1u as=0.5p ps=2.5u w=2u l=0.3u
X6 VGND.t4 Vbias a_3050_980# VGND.t3 sg13_lv_nmos ad=2.22p pd=10.1u as=1.1p ps=5.1u w=2u l=0.45u
X7 VPWR diff a_3050_980# VPWR sg13_lv_pmos ad=1.1p pd=5.1u as=0.5p ps=2.5u w=2u l=0.3u
X8 VGND.t6 a_3050_980# out VGND.t5 sg13_lv_nmos ad=0.225p pd=1.9u as=0.225p ps=1.9u w=0.5u l=0.15u
X9 VPWR R1 R1 VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=1.1p ps=5.1u w=2u l=0.3u
X10 R2 Vbias VGND.t2 VGND.t1 sg13_lv_nmos ad=1.1p pd=5.1u as=1.1p ps=5.1u w=2u l=0.45u
X11 R1 R1 VPWR VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X12 a_3050_980# diff VPWR VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X13 diff R1 VPWR VPWR sg13_lv_pmos ad=1.1p pd=5.1u as=0.5p ps=2.5u w=2u l=0.3u
X14 VPWR R1 diff VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=0.5p ps=2.5u w=2u l=0.3u
X15 diff in_n R2 VGND.t0 sg13_lv_nmos ad=2.2p pd=9.1u as=1p ps=4.5u w=4u l=0.3u
X16 a_3050_980# diff VPWR VPWR sg13_lv_pmos ad=0.5p pd=2.5u as=1.1p ps=5.1u w=2u l=0.3u
X17 out a_3050_980# VPWR VPWR sg13_lv_pmos ad=0.6p pd=3.4u as=0.6p ps=3.4u w=1.2u l=0.15u
R0 VGND.n5 VGND.t0 6044.22
R1 VGND.t5 VGND.t3 466.387
R2 VGND.t3 VGND.t4 222.714
R3 VGND.t0 VGND.t1 88.2358
R4 VGND.n5 VGND.t5 44.1181
R5 VGND.n5 VGND.n4 26.0005
R6 VGND.n6 VGND.n5 26.0005
R7 VGND.n6 VGND.t6 9.5338
R8 VGND.n4 VGND.t6 9.5338
R9 VGND.n4 VGND.n2 4.85902
R10 VGND.n7 VGND.n6 4.85902
R11 VGND.n8 VGND.n7 2.97569
R12 VGND.n0 VGND.n2 2.97569
R13 VGND.n0 VGND.t2 2.92925
R14 VGND.t2 VGND.n8 2.92925
R15 VGND.t1 VGND.n1 2.46422
R16 VGND.n7 VGND.n3 1.66274
R17 VGND.n3 VGND.n2 1.6624
R18 VGND.n1 VGND.n0 1.35428
R19 VGND.n8 VGND.n1 1.35428
R20 VGND.t4 VGND.n3 1.25558
R21 VGND VGND.n0 0.0005
C0 in_n VPWR 0.04754f
C1 diff R2 0.16013f
C2 Vbias R2 0.17395f
C3 in_p VPWR 0.04749f
C4 R2 in_n 0.1799f
C5 out VPWR 0.10919f
C6 VPWR R1 1.92409f
C7 R2 in_p 0.1799f
C8 diff a_3050_980# 0.17165f
C9 R2 R1 0.16823f
C10 Vbias a_3050_980# 0.32326f
C11 Vbias diff 0.00803f
C12 diff in_n 0.44828f
C13 Vbias in_n 0.2306f
C14 out a_3050_980# 0.16526f
C15 Vbias in_p 0.2306f
C16 Vbias out 0.04331f
C17 in_n in_p 0.0326f
C18 diff R1 0.37165f
C19 Vbias R1 0.01373f
C20 VPWR a_3050_980# 1.62717f
C21 in_n R1 0.00547f
C22 diff VPWR 1.87646f
C23 Vbias VPWR 0.90927f
C24 in_p R1 0.45382f
C25 out VGND 3.08208f
C26 VPWR VGND 2.14878f
C27 R2 VGND 1.6571f
C28 VGND.t6 VGND 2.37688f
C29 VGND.t4 VGND 3.27713f
.ends

